US06562916B2
TiCl4/ZrCl4 9:1
1.4 g (6.0 mmol) of zirconium tetrachloride and 10.207 g (53.8 mmol) of titanium tetrachloride were placed in a two-necked round-bottomed flask under an argon atmosphere. 480 ml of methylene chloride and 7 ml (7.89 g) of nitromethane were added (ratio Zr/nitro compound 1:21.5).

reactant | zirconium tetrachloride | 6.0 mmol, 1.4 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | titanium tetrachloride | 53.8 mmol, 10.207 g | [Ti](Cl)(Cl)(Cl)Cl
reactant | methylene chloride | 480 ml | C(Cl)Cl | CH2Cl2
solvent | nitromethane | 7 ml, 7.89 g | [N+](=O)([O-])C | CH3NO2
product | TiCl4 ZrCl4 | Cl[Ti](Cl)(Cl)Cl.[Cl-].[Cl-].[Cl-].[Cl-].[Zr+4] | InChI=1S/8ClH.Ti.Zr/h8*1H;;/q;;;;;;;;2*+4/p-8
